US07612067B2
Preparation of 8-(1-Ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(3-methyl-3H-imidazol-4-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
Using the procedure analogous to Example 31, 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol), 1.34M n-Bu-Li (0.80 mL, 1.07 mmol), 0.5M ZnCl2 in THF (2.14 mL, 1.07 mmol), 5-iodo-1-methyl-1H-imidazole (0.24 g, 1.22 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) furnish the title compound (0.061 g, 0.15 mmol, 15%). 1H NMR (CDCl3) δ 0.89 (t, J=7.4 Hz, 6H), 1.75-1.93 (m, 4H), 2.17 (s, 3H), 2.50 (s, 3H), 2.53 (s, 3H), 3.24-3.38 (m, 1H), 3.61 (s, 3H), 6.68 (s, 1H), 7.02 (s, 1H), 7.23 (s, 1H), 7.55 (s, 1H). LC/MS (m/z): calcd. for C22H27N5S (M+H)+: 394.3; found: 394.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | n-Bu-Li | 1.07 mmol, 1.34M, 0.80 mL | C(CCC)[Li]
reactant | THF | 1.07 mmol, 2.14 mL | C1CCOC1 | C4H8O
reactant | 5-iodo-1-methyl-1H-imidazole | 1.22 mmol, 0.24 g | IC1=CN=CN1C | C4H5IN2
catalyst | ZnCl2 | 0.5M | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(3-methyl-3H-imidazol-4-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.15 mmol, 0.061 g, 15% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C=2N(C=NC2)C | C22H27N5S
